US03950343
3,4- Dihydropyrrolo-8 4,3,2 -de ]isoquinolin-5(1 H)-one (6; R 1 = H)
A mixture of 3-formylindole -4 -carboxylic acid methyl ester oxime (1.6 g), described in Example 2 and platinum oxide (120 mg) in 60 ml of acetic acid is stirred in a hydrogen atmosphere for 16 hr. Removal of the catalyst and concentration of the solution affords an oily residue [the acetic acid addition salt of 3-(aminomethyl)indole -4-carboxylic acid methyl ester] . The oil is suspended in water. The mixture is rendered alkaline with 10% NaOH. The solid is collected, triturated with 30% acetone in benzene and recrystallized from ethanol to afford the title compound, mp. 232°-234°C, νmaxCHCl3 1668 cm-1.

reactant | 3-formylindole -4 -carboxylic acid methyl ester oxime | 1.6 g | COC(C=1C=2C(=CNC2C=CC1)C=O)=NO | C11H10N2O3
reactant | hydrogen | [H][H] | H2
reactant | 3-(aminomethyl)indole -4-carboxylic acid methyl ester | COC(=O)C=1C=2C(=CNC2C=CC1)CN | C11H12N2O2
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | platinum oxide | 120 mg | [Pt]=O
product | isoquinolin-5(1 H)-one | C1N=CC=C2C(C=CC=C12)=O | C9H7NO
